US07498337B2
ethyl 5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate
To a solution of ethyl 2-chloro-5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate (9.82 g) in ethanol (200 mL) was added 10% palladium carbon (50% containing water, 4.91 g), and the mixture was stirred under a hydrogen atmosphere at 40° C. for 72 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as colorless crystals (yield 3.80 g, 24%).

reactant | ethyl 2-chloro-5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate | 9.82 g | ClC=1NC(=CC1C(=O)OCC)C1=C(C=CC=C1F)F | C13H10ClF2NO2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium carbon | 4.91 g | [C].[Pd]
product | ethyl 5-(2,6-difluorophenyl)-1H-pyrrole-3-carboxylate | yield 3.80 g, 24% | FC1=C(C(=CC=C1)F)C1=CC(=CN1)C(=O)OCC | C13H11F2NO2
